US06001849
Preparation of 5-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)-furo[2,3-b]pyridine dihydrochloride
A 200 mg (0.80 mmol) sample of 5-chloro-2-(2-(S)-pyrrolidinyl)-furo[2,3-b]pyridine dihydrochloride, from Example 13c above, was dissolved in 4 mL of 88% formic acid and 8 mL of 37% aqueous formaldehyde and heated at reflux for 1 hour. The reaction mixture was cooled, poured into saturated K2CO3, and the mixture was extracted with CH2Cl2. The extract was dried over MgSO4, and the solvent was removed. The residue was chromatographed on silica gel, eluting with 100:0 to 95:5 CHCl3 :MeOH. The product was converted to the salt by treatment with HCl/ether to give 140 mg of title compound: 1H NMR (D2O, 300 MHz) δ 2.29-2.38 (m, 2H), 2.49-2.68 (m, 2H), 2.95 (br s, 3H), 3.44 (m, 1H), 3.84 (m, 1H), 4.84 (m, 1H), 7.22 (s, 1H), 8.22 (d, 1H, J=2.3 Hz), 8.36 (d, 1H, J=2.4); MS m/z: 237 (M+H)+, 254 (M+NH4)+ ; Anal. Calcd for C12H13N2OCl.1.0 HCl.0.3 H2O: C, 51.74; H, 5.28; N, 9.73. Found: C, 51.74; H, 5.28; N, 10.16.

reactant | 5-chloro-2-(2-(S)-pyrrolidinyl)-furo[2,3-b]pyridine dihydrochloride | Cl.Cl.ClC=1C=C2C(=NC1)OC(=C2)[C@H]2NCCC2
reactant | formaldehyde | 8 mL | C=O | CH2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | formic acid | 4 mL | C(=O)O | CH2O2
product | 5-chloro-2-(1-methyl-2-(S)-pyrrolidinyl)-furo[2,3-b]pyridine dihydrochloride | 140 mg | Cl.Cl.ClC=1C=C2C(=NC1)OC(=C2)[C@H]2N(CCC2)C | InChI=1S/C12H13ClN2O.2ClH/c1-15-4-2-3-10(15)11-6-8-5-9(13)7-14-12(8)16-11;;/h5-7,10H,2-4H2,1H3;2*1H/t10-;;/m0../s1
